US07985769B2
3-{(2,4-Dichloro-benzoyl)-[5-(3-trifluoromethyl-phenyl)-furan-2-ylmethyl]-amino}-5-phenyl-thiophene-2-carboxylic acid
3-{(2,4-Dichloro-benzoyl)-[5-(3-trifluoromethyl-phenyl)-furan-2-ylmethyl]-amino}-5-phenyl-thiophene-2-carboxylic acid methyl ester (62 mg, 0.098 mmol) was dissolved in THF (5 mL) and water (2 mL). A solution of lithium hydroxide (13 mg, 3 eq. in 2 mL of water) was added dropwise. After first few drop, a pink color appeared and disappeared. Mixture was stirred for 5 hrs and acidified with 1N HCl-solution. The product was extracted into ethyl acetate, washed once with water, dried over magnesium sulfate. Solvent was evaporated and the residue was purified on silica gel (Bond-Elute 2 g). The product was elute with a 20 mL gradient of Hexane:EtOAc 9:1. 4:1, 7:3, 3:2, 1:1, 2:3 and EtOAc to give the desired product in 76% yield (46 mg).

reactant | 3-{(2,4-Dichloro-benzoyl)-[5-(3-trifluoromethyl-phenyl)-furan-2-ylmethyl]-amino}-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.098 mmol, 62 mg | COC(=O)C=1SC(=CC1N(CC=1OC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C(C1=C(C=C(C=C1)Cl)Cl)=O)C1=CC=CC=C1 | C31H20Cl2F3NO4S
reactant | lithium hydroxide | 2 mL, 13 mg, 3 eq. | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 3-{(2,4-Dichloro-benzoyl)-[5-(3-trifluoromethyl-phenyl)-furan-2-ylmethyl]-amino}-5-phenyl-thiophene-2-carboxylic acid | 76% yield | ClC1=C(C(=O)N(C2=C(SC(=C2)C2=CC=CC=C2)C(=O)O)CC=2OC(=CC2)C2=CC(=CC=C2)C(F)(F)F)C=CC(=C1)Cl | C30H18Cl2F3NO4S
